US06277617B1
Neopentyl Methanethiosulfonate
The reaction mixture of neopentyl iodide (3.054 g, 0.0154 mol), sodium methanethiosulfonate (2.272 g, 0.0170 mol) and dry DMF (4 mL) was heated at 90° C. for 90 hr. The reaction flask was wrapped with aluminum foil to avoid direct sunlight to the reaction mixture, since the iodide was sensitive to sunlight. At the end of the heating, the reaction mixture was red-brown in color. At room temperature, water (15 mL) was added and the mixture was extracted with ether (3×30 mL). The combined ether extracts were washed twice with brine, dried, concentrated and the residue was subjected to column chromatography on silica gel with EtOAc-hexanes (1:2) to afford a colorless oil which slowly solidified (1.2395 g, 44%). The product was recrystallized from 95% EtOH. mp: 28.5-29.0° C.; IR (CH2Cl2 cast): 3021 (m), 2956 (m), 2868 (m), 1467 (m), 1433 (m), 1321 (st), 1310 (st), 1125 (st), 951 (m), 757 (m) and 724 cm−1 (m); 1H NMR (200 MHz, CDCl3): δ 3.32 (s, 3H, CH3SO2S), 3.13 (s, 2H, SCH2C), 1.05 (s, 9H, CMe3); 13C NMR (50 MHz, CDCl3): δ 50.23, 50.09, 32.14, 28.79, MS (El): 182 (M+), 57 (base peak, CMe3+).

reactant | neopentyl iodide | 0.0154 mol, 3.054 g | C(C(C)(C)C)I | C5H11I
reactant | sodium methanethiosulfonate | 0.0170 mol, 2.272 g | CS(=O)([O-])=S.[Na+]
reactant | aluminum | [Al] | Al
reactant | iodide | [I-]
solvent | water | 15 mL | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | Neopentyl Methanethiosulfonate | CS(=O)(OCC(C)(C)C)=S | C6H14O2S2
